US07696193B2
Example 252 (E252) was prepared from 3-cyclobutyl-7-[(5-iodo-2-pyridinyl)oxy]-2,3,4,5-tetrahydro-1H-3-benzazepine (E207) and (4R)-4-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}-2-pyrrolidinone (Tetrahedron, 2000, 56(39), 7705-7713) using the method described in E251; MS (ES+) m/e 394 [M+H]+.

reactant | 3-cyclobutyl-7-[(5-iodo-2-pyridinyl)oxy]-2,3,4,5-tetrahydro-1H-3-benzazepine | C1(CCC1)N1CCC2=C(CC1)C=CC(=C2)OC2=NC=C(C=C2)I | C19H21IN2O
reactant | (4R)-4-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}-2-pyrrolidinone | CC(C)(C)[Si](O[C@@H]1CC(NC1)=O)(C)C | C10H21NO2Si
product | (4R)-1-{6-[(3-Cyclobutyl-2,3,4,5-tetrahydro-1H-3-benzazepin-7-yl)oxy]-3-pyridinyl}-4-hydroxy-2-pyrrolidinone | C1(CCC1)N1CCC2=C(CC1)C=CC(=C2)OC2=CC=C(C=N2)N2C(C[C@H](C2)O)=O | C23H27N3O3
